### PR TITLE
Erdős Problem 233

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/233.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+The prime gap: the difference between the $n+1$-th and $n$-th prime.
+-/
+noncomputable def primeGap (n : ℕ) : ℕ := (n + 1).nth Nat.Prime - n.nth Nat.Prime
+
+
+open Filter Real
+/--
+The prime number theorem immediately implies a lower bound for the sum of squares of gaps between
+consecutive primes.
+-/
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/233.lean]: Small nitpick: I think it might be worth making this docstring a little closer to the formalisation.

File: FormalConjectures/ErdosProblems/233.lean [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+@[category research open, AMS 11]
+theorem erdos_233 :
+    (fun N => ((∑ n ∈ Finset.range N, (primeGap n) ^ 2) : ℝ)) =O[atTop] fun N => N * (log N)^2 := by
+  sorry
+
+/--
+Cramér proved an upper bound of O(N(logN)4) conditional on the Riemann hypothesis.
+-/
+@[category research solved, AMS 11]
+theorem erdos_233.variant (h : RiemannHypothesis):
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/233.lean]:
```suggestion
theorem erdos_233.variant (h : RiemannHypothesis) :
```

File: FormalConjectures/ErdosProblems/233.lean [hunk 3]
```diff
@@ -0,0 +1,61 @@
...
+A conjecture by Heath-Brown:
+The sum of squares of the first $N$ gaps between consecutive primes behaves like $N * (log N)^2$.
+-/
+@[category research open, AMS 11]
+theorem erdos_233 :
+    (fun N => ((∑ n ∈ Finset.range N, (primeGap n) ^ 2) : ℝ)) =O[atTop] fun N => N * (log N)^2 := by
+  sorry
+
+/--
+Cramér proved an upper bound of O(N(logN)4) conditional on the Riemann hypothesis.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/233.lean]:
```suggestion
Cramér proved an upper bound of $O(N(\log N)^4)$ conditional on the Riemann hypothesis.
```

**Review by Paul-Lez — COMMENTED** [review]
Nice!

File: FormalConjectures/ErdosProblems/233.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/233.lean]: done, now mentioning the bound in the docstring

File: FormalConjectures/ErdosProblems/233.lean [hunk 4]
```diff
@@ -0,0 +1,61 @@
...
+    (fun N => ((∑ n ∈ Finset.range N, (primeGap n) ^ 2) : ℝ)) := by
+  sorry
+
+/--
+A conjecture by Heath-Brown:
+The sum of squares of the first $N$ gaps between consecutive primes behaves like $N * (log N)^2$.
+-/
+@[category research open, AMS 11]
+theorem erdos_233 :
+    (fun N => ((∑ n ∈ Finset.range N, (primeGap n) ^ 2) : ℝ)) =O[atTop] fun N => N * (log N)^2 := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/233.lean:52]: This seems to be the same statement as the previous one; don't we want a stronger asymptotic condition to hold here?

Comment (mo271) [reply FormalConjectures/ErdosProblems/233.lean:52]: In this statement `N * (log N)^2 ` is the upper bound, in the previous statement it is the lower bound, no?

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/233.lean:52]: Indeed - I confused myself here:)

**Review by Paul-Lez — APPROVED** [review]
